US08809267B2
1-{[4-(4-Bromobenzenesulfonyloxy)-1-(2-tert-butoxycarbonylamino-3,3-dimethylbutyryl)-pyrrolidine-2-carbonyl]amino}-2-ethylcyclopropanecarboxylic acid methyl ester was dissolved in 4N HCl in dioxane (300 mL) at room temperature and stirred for 2 h. It was then concentrated under vacuum, and co-evaporated with dichloromethane (2×200 mL) to dryness. The residue was dissolved in EtOAc (600 mL) and sat'd aq. NaHCO3 (1 L). It was stirred vigorously. After 10 min, carbonic acid bicyclo[3.1.0]hex-3-yl ester 2,5-dioxo-pyrrolidin-1-yl ester (41.4 g, 173.1 mmol) was added in one portion. After the resulting mixture was stirred for another 30 min, the organic layer was collect and washed with brine (500 mL), dried over Na2SO4, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel with ethyl acetate/hexane to afford 94.4 g (92% yield) of 1-{[1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-(4-bromobenzenesulfonyloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethylcyclopropanecarboxylic acid methyl ester.

reactant | 1-{[4-(4-Bromobenzenesulfonyloxy)-1-(2-tert-butoxycarbonylamino-3,3-dimethylbutyryl)-pyrrolidine-2-carbonyl]amino}-2-ethylcyclopropanecarboxylic acid methyl ester | COC(=O)C1(C(C1)CC)NC(=O)C1N(CC(C1)OS(=O)(=O)C1=CC=C(C=C1)Br)C(C(C(C)(C)C)NC(=O)OC(C)(C)C)=O | C29H42BrN3O9S
reactant | carbonic acid bicyclo[3.1.0]hex-3-yl ester 2,5-dioxo-pyrrolidin-1-yl ester | 173.1 mmol, 41.4 g | O=C1N(C(CC1)=O)OC(OC1CC2CC2C1)=O | C11H13NO5
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 1-{[1-[2-(bicyclo[3.1.0]hex-3-yloxycarbonylamino)-3,3-dimethylbutyryl]-4-(4-bromobenzenesulfonyloxy)-pyrrolidine-2-carbonyl]-amino}-2-ethylcyclopropanecarboxylic acid methyl ester | 94.4 g, 92% yield | COC(=O)C1(C(C1)CC)NC(=O)C1N(CC(C1)OS(=O)(=O)C1=CC=C(C=C1)Br)C(C(C(C)(C)C)NC(=O)OC1CC2CC2C1)=O | C31H42BrN3O9S
